US08071807B2
Step 1: [3-(2-tert-Butylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 4, using the following starting materials: [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and 2-methyl-2-propanethiol.

reactant | [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C18H18BrNO6
reactant | 2-methyl-2-propanethiol | CC(C)(C)S | C4H10S
product | [3-(2-tert-Butylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)(C)C)=O | C22H27NO6S
